US06797725B2
A reaction mixture of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indol-2-one (332 mg, 1.0 mmol), 4-hydroxybenzoic acid (138 mg, 1.0 mmol), and 2 drops of triethylamine in 3.0 mL of THF was stirred at room temperature overnight and concentrated. The residue was then purified on a silica gel column eluting with ethyl acetate-hexane (1:3) and 0.5% of acetic acid in ethyl acetate-dichloromethane (2:1) to afford 150 mg (37%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 4-carboxy-phenyl ester. 1H NMR (400 MHz, DMSO-d6) δ 12.65 (s, vbr, 1H, COOH), 12.60 (s, br, 1H, NH-1′), 8.12 (d, J=7.39 Hz, 2H), 7.86-7.88 (m, 1H), 7.64 (s, vbr, 1H), 7.51 (s, 1H, H-vinyl), 7.43 (d, J=7.39 Hz, 2H), 7.21-7.23 (m, 2H), 6.09 (s, br, 1H, H-4′), 2.40 (s, 3H, CH3), and 2.38 (s, 3H, CH3).

reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indol-2-one | 1.0 mmol, 332 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C=NC=C1)=O | C19H16N4O2
reactant | 4-hydroxybenzoic acid | 1.0 mmol, 138 mg | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid 4-carboxy-phenyl ester | 150 mg, 37% | C(=O)(O)C1=CC=C(C=C1)OC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C23H18N2O5
